US07041688B2
4-Trifluoromethylpiperidine (2.0 g, 13 mmol) was added to a solution of propargyl bromide (80 wt. % 5.4 g, 36 mmol) in ethanol (30 ml). Potassium carbonate (5.4 g, 39 mmol) was added and the mixture was stirred at room temperature for 20 hours. The mixture was filtered and the solids washed with ethyl acetate. The filtrate was evaporated in vacuo, diluted with sodium hydrogen carbonate (sat, 50 ml) and extracted with ethyl acetate (2×40 ml). The extracts were washed with brine, dried (MgSO4) and evaporated in vacuo to provide 1-propargyl-4-trifluoromethylpiperidine as a brown oil (795 mg, 32%). (ES+) 192 ([MH]+).

reactant | 4-Trifluoromethylpiperidine | 13 mmol, 2.0 g | FC(C1CCNCC1)(F)F | C6H10F3N
reactant | propargyl bromide | 36 mmol, 5.4 g | C(C#C)Br | C3H3Br
reactant | Potassium carbonate | 39 mmol, 5.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-propargyl-4-trifluoromethylpiperidine | 795 mg, 32% | C(C#C)N1CCC(CC1)C(F)(F)F | C9H12F3N
